US04547499
2,4-Dihydro-2-[3-(4-phenylpiperazin-1-yl)propyl]-1H-[1,2,4]triazolo[3,4-c][1,4]benzoxazin-1-one
A stirred solution of 1.32 g. (0.005 mole) of 2-(3-chloropropyl)2,4-dihydro-1H-[1,2,4]triazolo[3,4-c][1,4]benzoxazin-1-one in 25 ml. of dry DMF was treated with 0.83 g. (0.005 mole) of potassium iodide and 1.78 g. (0.011 mole) of N-phenylpiperazine. The resulting mixture was kept at 50° C. for 18 hours, at 85° C. for 2 hours and at 105° C. for 2.5 hours. The mixture was then cooled, poured into ice water and extracted with methylene chloride. The methylene chloride extracts were combined, washed with dilute brine, dried over sodium sulfate and concentrated in vacuo. The resulting residue was chromatographed on 125 g. of silica gel and eluted therefrom with a 1.5% v/v methanol in chloroform mixture. The eluted product was crystallized in the manner described in example 1, hereinabove, from an ethyl acetate/Skellysolve®B hexane mixture to give in two crops 0.74 g., m.p. 95°-96.5° C., and 0.37 g., m.p. 94°-96° C. of the titled compound. The analytical sample has a melting point of 96°-96.5° C.

reactant | 2-(3-chloropropyl)2,4-dihydro-1H-[1,2,4]triazolo[3,4-c][1,4]benzoxazin-1-one | 0.005 mole | ClCCCN1N=C2COC3=C(N2C1=O)C=CC=C3 | C12H12ClN3O2
reactant | potassium iodide | 0.005 mole | [I-].[K+]
reactant | N-phenylpiperazine | 0.011 mole | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
solvent | DMF | CN(C)C=O | C3H7NO
product | 2,4-Dihydro-2-[3-(4-phenylpiperazin-1-yl)propyl]-1H-[1,2,4]triazolo[3,4-c][1,4]benzoxazin-1-one | C1(=CC=CC=C1)N1CCN(CC1)CCCN1N=C2COC3=C(N2C1=O)C=CC=C3 | C22H25N5O2
